US05298652
A mixture of 1.0 g (6 mmol) of 2,5-dihydroxybenzoic acid methyl ester, 2.0 g (6 mmol) of 6-([1,1'-biphenyl]-4-yloxy)hexyl bromide and 1.24 g (9 mmol) of potassium carbonate in 50 ml of acetone and 5 ml of DMF was stirred at reflux for 27 hours. The solvents were removed at reduced pressure, water was added to the residue and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was purified by chromatography on 40 g of silica gel using 50% toluene-hexane to give 1.4 g (56% yield, mp 91°-92°) of 5-[[6-([1,1'-biphenyl]4-yloxy)hexyl]oxy]-2-hydroxybenzoic acid methyl ester. The structure was confirmed by nmr and mass spectra.

reactant | 2,5-dihydroxybenzoic acid methyl ester | 6 mmol, 1.0 g | COC(C1=C(C=CC(=C1)O)O)=O | C8H8O4
reactant | 6-([1,1'-biphenyl]-4-yloxy)hexyl bromide | 6 mmol, 2.0 g | C1(=CC=C(C=C1)OCCCCCCBr)C1=CC=CC=C1 | C18H21BrO
reactant | potassium carbonate | 9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-[[6-([1,1'-biphenyl]4-yloxy)hexyl]oxy]-2-hydroxybenzoic acid methyl ester | 1.4 g, 56% yield | COC(C1=C(C=CC(=C1)OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1)O)=O | C26H28O5
